US04722749
N-methyl-N-(3,5-dichloro-2-pyridyl)-2-pyridinesulfonamide 1-oxide
Following the procedures of Example 1, N-methyl-N-(3,5-dichloro-2-pyridyl)-2-pyridinesulfonamide is oxidized with 40% peracetic acid to give the title compound, MS m/e 334.00 (M+).

reactant | N-methyl-N-(3,5-dichloro-2-pyridyl)-2-pyridinesulfonamide | CN(S(=O)(=O)C1=NC=CC=C1)C1=NC=C(C=C1Cl)Cl | C11H9Cl2N3O2S
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
product | N-methyl-N-(3,5-dichloro-2-pyridyl)-2-pyridinesulfonamide 1-oxide | CN(S(=O)(=O)C=1[N+](=CC=CC1)[O-])C1=NC=C(C=C1Cl)Cl | C11H9Cl2N3O3S
